US04028320
50 grams of β-(β-chloroethanesulfonyl)propionic acid and 150 ml of thionyl chloride were heated under refluxing for about 2 hours, excess thionyl chloride distilled off under reduced pressure, and the residue recrystallized from anhydrous benzene to give 46 g of white β-(β-chloroethanesulfonyl)propionyl chloride, m.p. 73°-5° C.

reactant | β-(β-chloroethanesulfonyl)propionic acid | 50 grams | ClCCS(=O)(=O)CCC(=O)O | C5H9ClO4S
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | β-(β-chloroethanesulfonyl)propionyl chloride | 46 g | ClCCS(=O)(=O)CCC(=O)Cl | C5H8Cl2O3S
